US07666888B2
1-{[5-(2-Chlorophenyl)isoxazol-4-yl]carbonyl}-5-ethyl-2-methylpiperidine
The title compound was prepared from 5-(2-chlorophenyl)isoxazole-4-carboxylic acid (11.2 mg, 0.050 mmol) and 5-ethyl-2-methylpiperidine (7.6 mg, 0.060 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (2.8 mg). Calcd for C18H21ClN2O2: 332.1292, found 332.1293.

reactant | 5-(2-chlorophenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 11.2 mg | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)O | C10H6ClNO3
reactant | 5-ethyl-2-methylpiperidine | 0.060 mmol, 7.6 mg | C(C)C1CCC(NC1)C | C8H17N
product | 1-{[5-(2-Chlorophenyl)isoxazol-4-yl]carbonyl}-5-ethyl-2-methylpiperidine | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)N1C(CCC(C1)CC)C | C18H21ClN2O2
